US09422331B2
To a rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (57 mg, 129 μmol) in DMF (321 μl) was added 1-(chloromethyl)-2-methylnaphthalene (29.4 mg, 154 μmol), cesium carbonate (54.4 mg, 167 μmol), and sodium iodide (25.0 mg, 167 μmol). The reaction was stirred at rt for 1 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (56.3 mg, 73%) as a white solid. MS m/z 620 (MNa)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 129 μmol, 57 mg | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)C=CC(=C2)C#N | C22H29N5O5
reactant | 1-(chloromethyl)-2-methylnaphthalene | 154 μmol, 29.4 mg | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
reactant | cesium carbonate | 167 μmol, 54.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 167 μmol, 25.0 mg | [I-].[Na+]
solvent | DMF | 321 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 56.3 mg, 73% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | C34H39N5O5
